US06432950B1
Following the procedure of Example 1, the reaction of 3-chloro-4-methoxybenzylamine with 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-trifluoromethyl-4-(3-chloro-4-methoxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3-chloro-4-methoxybenzylamine | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)Cl | C7HCl2F3N2S
product | 2-chloro-6-trifluoromethyl-4-(3-chloro-4-methoxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC(=C(C=C2)OC)Cl | C15H10Cl2F3N3OS
